US08729102B2
A) tert-butyl [(1S)-1-methyl-2-({6-[6-(2-oxopropoxy)-1,3-benzoxazol-2-yl]pyridin-3-yl}oxy)ethyl]carbamate
Using tert-butyl [(1S)-2-{[6-(6-hydroxy-1,3-benzoxazol-2-yl)pyridin-3-yl]oxy}-1-methylethyl]carbamate and 1-bromopropan-2-one, and in the same manner as in Example 2, step E, the title compound was obtained.

reactant | tert-butyl [(1S)-2-{[6-(6-hydroxy-1,3-benzoxazol-2-yl)pyridin-3-yl]oxy}-1-methylethyl]carbamate | OC1=CC2=C(N=C(O2)C2=CC=C(C=N2)OC[C@H](C)NC(OC(C)(C)C)=O)C=C1 | C20H23N3O5
reactant | 1-bromopropan-2-one | BrCC(C)=O | C3H5BrO
product | tert-butyl [(1S)-1-methyl-2-({6-[6-(2-oxopropoxy)-1,3-benzoxazol-2-yl]pyridin-3-yl}oxy)ethyl]carbamate | C[C@@H](COC=1C=NC(=CC1)C=1OC2=C(N1)C=CC(=C2)OCC(C)=O)NC(OC(C)(C)C)=O | C23H27N3O6
